US06884868B1
To a solution of 1-methyl-4-piperidone (1.0 g) in N,N-dimethylformamide (10 ml) was added 2-iodoethanol (0.70 ml-1.5 g) and stirred overnight at ambient temperature. The reaction mixture was evaporated under reduced pressure and washed by ethyl acetate to afford 1-(2-hydroxyethyl)-1-methyl-4-oxopiperidinium iodide (0.94 g).

reactant | 1-methyl-4-piperidone | 1.0 g | CN1CCC(CC1)=O | C6H11NO
reactant | 2-iodoethanol | ICCO | C2H5IO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2-hydroxyethyl)-1-methyl-4-oxopiperidinium iodide | 0.94 g | [I-].OCC[N+]1(CCC(CC1)=O)C | InChI=1S/C8H16NO2.HI/c1-9(6-7-10)4-2-8(11)3-5-9;/h10H,2-7H2,1H3;1H/q+1;/p-1
